Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[C:6]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:7]=[C:8]([H:9])[H:10],4.50095631513
[H:1][O:2][C:3][C:5]([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.68009972976
[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-0.5481435839100001
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2],10.57144932
[C:5]([H:6])([H:7])=[C:8][H:9].[H:1][C:2]([H:3])=[C:4]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-1.6116408625299998
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[O:15][H:16],4.5792556101
[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[C:6]#[C:7][H:8].[O:1][O:2][C:3]([H:4])[H:5],4.63813805372
[H:1].[O:2]=[C:3]=[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-2.14902854065
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:15]([H:16])([H:17])[H:18],4.403375488419999
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14],-1.93333196283
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2].[O:3]=[C:4]([C:5]([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],4.7554693671
[C:1].[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-7.08854863148
[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:14][H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-4.18124445711
[C:1]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[C:2]#[C:3]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.29441025988
[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2],3.32690426348
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-1.73932978585
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:10].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],1.98652528956
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[O:8][H:9]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])=[O:8].[H:9],2.15151346354
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.58936269074
[H:1][C:2]#[C:3][C:4]#[C:5][O:7][C:8]([H:9])([H:10])[H:11].[H:6]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-2.47850116611
[H:1][C:2][H:3].[O:4]=[C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.70694234818
[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-3.86997285295
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.688522829709999
[C:1][C@:2]([H:3])([O:4][O:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([H:3])[O:4][O:5].[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],1.7283795538599998
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],5.076808468399999
[H:1][C:2]([H:3])[O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][H:3].[O:4]=[C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],2.70694234818
[O:1][C@:2]([H:3])(/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])(/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1],3.39298136245
